** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/opamp/cat_nekonekone/submit/opamp_cat_nekonekone.sch
.subckt opamp_cat_nekonekone vinn vinp out ib vss vdd
*.PININFO vinn:I vinp:I out:O ib:B vss:B vdd:B
MXM1 net2 vinn net1 vdd PMOS w=25u l=5u m=12
MXM4 net3 net2 vss vss NMOS w=25u l=5u m=8
MXM2 net3 vinp net1 vdd PMOS w=25u l=5u m=12
MXM3 net2 net2 vss vss NMOS w=25u l=5u m=8
MXM5 net1 ib vdd vdd PMOS w=25u l=5u m=16
MXM6 out ib vdd vdd PMOS w=25u l=5u m=32
MXM7 out net3 vss vss NMOS w=25u l=5u m=34
MXM8 ib ib vdd vdd PMOS w=25u l=5u
MXM9 net5 ib vdd vdd PMOS w=25u l=5u m=2
MXM10 net5 net5 net4 vss NMOS w=25u l=5u m=2
MXM11 net4 net4 vss vss NMOS w=25u l=5u m=2
MXM12 net6 net5 net3 vss NMOS w=25u l=5u m=4
MXM_DUMMY2 vdd vdd vdd vdd PMOS w=25u l=5u m=4
MXM_DUMMY1 vss vss vss vss NMOS w=25u l=5u m=24
MXM_DUMMY3 net1 vdd vdd vdd PMOS w=25u l=5u m=4
MXM_DUMMY5 net3 vss vss vss NMOS w=25u l=5u m=2
MXM_DUMMY4 net5 vdd vdd vdd PMOS w=25u l=5u m=2
MXM_DUMMY6 ib vdd vdd vdd PMOS w=25u l=5u
MXM_DUMMY7 out vss vss vss NMOS w=25u l=5u m=2
XXC2 net6 out vss F_CSIO x=96u y=86u A=8.256n P=364u m=4
.ends
